US04061761
4-(4-Chloro-3-chlorosulfonylphenyl-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide. 5.1 g of 4'-chloro-3'-chlorosulfonyl-acetophenone were reacted in the manner described in Example 1a) with 3.2 g bromine in ethyl acetate to yield the 2-bromo-4'-chlorosulfonylacetophenone (melting point: 111° C from chloroform, γC=O 1700 cm-1) which was reacted without further isolation, as described in Example 1b) with 2.1 g of 1.3-dimethylthiourea in 50 ml of acetone. The mixture was stirred for 30 minutes at 30°-35° C, cooled to 10° C and the 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thazolidine-4-ol-hydrobromide was filtered. Colorless crystals melting at 162° C (decomposition).

reactant | 4-Chloro-3-chlorosulfonylphenyl-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(=O)(=O)Cl
reactant | 4'-chloro-3'-chlorosulfonyl-acetophenone | 5.1 g | ClC1=C(C=C(C=C1)C(C)=O)S(=O)(=O)Cl | C8H6Cl2O3S
reactant | bromine | 3.2 g | BrBr | Br2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-4'-chlorosulfonylacetophenone | BrCC(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H6BrClO3S
